US08431596B2
5-(1-Benzyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine
A vial was charged with 5-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (2.00 g, 9.39 mmol), 1-benzylpyrazole-4-boronic acid, pinacol ester (3.20 g, 11.3 mmol), potassium phosphate (4.00 g, 18.8 mmol) and tetrakis(triphenylphosphine)palladium (1.10 g, 0.94 mmol). Dimethylacetamide (24 ml) and water (8 ml) were added and the reaction mixture was heated under microwave irradiation to 150° C. for 10 min. The mixture was partitioned between ethyl acetate and water, and the aqueous phase extracted with ethyl acetate. The combined organic phases were washed several times with water, once with brine, dried over magnesium sulfate and concentrated in vacuo. Trituration in the minimum amount of dichloromethane and diethyl ether afforded an orange solid which required no further purification. Yield: 1.82 g, 67%; LCMS method: 2, RT: 2.37 min, MI: 291 [M+1].

reactant | 5-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 9.39 mmol, 2.00 g | BrC1=CC=CC=2N1N=C(N2)N | C6H5BrN4
reactant | 1-benzylpyrazole-4-boronic acid | C(C1=CC=CC=C1)N1N=CC(=C1)B(O)O | C10H11BN2O2
reactant | potassium phosphate | 18.8 mmol, 4.00 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | Dimethylacetamide | 24 ml | CC(=O)N(C)C | C4H9NO
catalyst | tetrakis(triphenylphosphine)palladium | 0.94 mmol, 1.10 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | water | 8 ml | O | H2O
product | 5-(1-Benzyl-1H-pyrazol-4-yl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | C(C1=CC=CC=C1)N1N=CC(=C1)C1=CC=CC=2N1N=C(N2)N | C16H14N6
